US08937041B2
To a solution of (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-hydroxyethyl)cyclopropanecarboxylate (8.65 g, 23.2 mmol) in dichloromethane (116 ml) at 25° C. was added Dess-Martin Periodinane (13.8 g, 32.4 mmol). The mixture was stirred for 3 h and quenched with 1 N sodium thiosulfate (70 mL) and aqueous saturated sodium bicarbonate solution (30 mL), and stirred for 1 h. The organic layer was separated, dried over anhydrous sodium sulfate, filtered, and evaporated under reduced pressure. This material was purified by flash chromatography on silica gel (eluted with 25% ethyl acetate/hexane) to yield (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-oxoethyl)cyclopropanecarboxylate (7.05 g, 82% yield) as an oil. MS (ESI): m/z=394.1 [M+Na]. To (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-oxoethyl)cyclopropanecarboxylate (7.05 g, 19.0 mmol) in tetrahydrofuran (60 mL) at −78° C. was added but-3-enylmagnesium bromide (45.6 mL, 22.78 mmol) and the reaction mixture was stirred for 30 min. The mixture was then quenched with saturated aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and evaporated under reduced pressure. The residual oil was purified via flash chromatography on silica gel (25% hexane/ethyl acetate) to provide the title compound (2.75 g, 34%) as an oil, along with recovered starting material (2.89 g, 41%). MS (ESI): m/z=450.1 [M+Na].

reactant | (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-hydroxyethyl)cyclopropanecarboxylate | 23.2 mmol, 8.65 g | C(C)(C)(C)OC(=O)N([C@]1([C@@H](C1)CCO)C(=O)OCC)C(=O)OC(C)(C)C | C18H31NO7
reactant | Dess-Martin Periodinane | 32.4 mmol, 13.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 116 ml | ClCCl | CH2Cl2
product | (1R,2S)-ethyl 1-(bis(tert-butoxycarbonyl)amino)-2-(2-oxoethyl)cyclopropanecarboxylate | 7.05 g, 82% yield | C(C)(C)(C)OC(=O)N([C@]1([C@@H](C1)CC=O)C(=O)OCC)C(=O)OC(C)(C)C | C18H29NO7
